US07375113B2
To a solution of 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo-[3,4-b]pyridine (75 mg) in tetrahydrofuran (0.5 mL) were added 2-dimethylaminoethanol (9 mg), triphenylphosphine (26 mg) and diethyl azodicarboxylate (40% toluene solution, 0.059 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=15/1) to give 1-(2-dimethylaminoethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine (79 mg). This material was dissolved in methanol (2 mL). To the solution was added sodium methoxide (28% methanol solution, 0.04 mL), and the mixture was stirred at 50° C. for 3 hours. The reaction mixture was purified by column chromatography on silica gel (eluent: dichloromethane/methanol =5/1−1/1) to give the title compound (16 mg).

reactant | 3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo-[3,4-b]pyridine | 75 mg | C(C(C)(C)C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)OC1=NNC2=NC=CC(=C21)CCC2=CC=C(C=C2)OC(C(C)(C)C)=O | C45H63N3O12
reactant | 2-dimethylaminoethanol | 9 mg | CN(CCO)C | C4H11NO
reactant | triphenylphosphine | 26 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.059 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 1-(2-dimethylaminoethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-4-[2-(4-pivaloyloxyphenyl)ethyl]-1H-pyrazolo[3,4-b]pyridine | 79 mg | CN(CCN1N=C(C=2C1=NC=CC2CCC2=CC=C(C=C2)OC(C(C)(C)C)=O)O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O)C | C49H72N4O12
